US05401752
To 30 ml of 3-(4-methoxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline (Compound No. 19) in benzene, 0.85 g of aluminum chloride was added and the resulting mixture was heated to reflux for 5 hours. After completion of the reaction, the reaction mixture was allowed to cool and water was added thereto. The generated precipitates were removed by filtration through Celite. The filtrate was made alkaline with saturated aqueous sodium hydrogen carbonate solution, and the resultant was extracted with ethyl acetate. After drying the combined organic layers over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate (1/1)] to obtain 0.28 g of 3-(4-hydroxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 3-(4-methoxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 30 ml | COC1=CC=C(C=C1)C1N(CC2=CC=CC=C2C1)C | C17H19NO
reactant | aluminum chloride | 0.85 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(4-hydroxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.28 g | OC1=CC=C(C=C1)C1N(CC2=CC=CC=C2C1)C | C16H17NO
